US08138189B2
Step 4: 4-{3-Chloro-4-[2-(2-chloro-pyridin-4-yl)-3,3,3-trifluoro-2-hydroxy-1-methyl-propyl]-benzoylamino}-benzoic acid methyl ester
To a solution of 3-chloro-4-[2-(2-chloro-pyridin-4-yl)-3,3,3-trifluoro-2-hydroxy-1-methyl-propyl]-benzoic acid (80 mg, 0.2 mmol) and 4-amino-benzoic acid methylester (34 mg, 0.22 mmol) in N,N-dimethylformamide (4 ml) were added 4-methylmorpholine (62 mg, 0.61 mmol) and HBTU (115 mg, 0.3 mmol). The mixture was stirred for 17 h at room temperature. The reaction solution was poured in water, extracted twice with AcOEt, washed with brine, dried over MgSO4, filtered and concentrated. The residue was purified by flash chromatography (5 g silica gel, heptane/AcOEt 4:1) to give the title compound (45 mg) as a white solid. MS (m/e)=527.1 [M+H+].

reactant | 3-chloro-4-[2-(2-chloro-pyridin-4-yl)-3,3,3-trifluoro-2-hydroxy-1-methyl-propyl]-benzoic acid | 0.2 mmol, 80 mg | ClC=1C=C(C(=O)O)C=CC1C(C(C(F)(F)F)(O)C1=CC(=NC=C1)Cl)C | C16H12Cl2F3NO3
reactant | 4-amino-benzoic acid methylester | 0.22 mmol, 34 mg | COC(C1=CC=C(C=C1)N)=O | C8H9NO2
reactant | 4-methylmorpholine | 0.61 mmol, 62 mg | CN1CCOCC1 | C5H11NO
reactant | HBTU | 0.3 mmol, 115 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-{3-Chloro-4-[2-(2-chloro-pyridin-4-yl)-3,3,3-trifluoro-2-hydroxy-1-methyl-propyl]-benzoylamino}-benzoic acid methyl ester | 45 mg | COC(C1=CC=C(C=C1)NC(C1=CC(=C(C=C1)C(C(C(F)(F)F)(O)C1=CC(=NC=C1)Cl)C)Cl)=O)=O | C24H19Cl2F3N2O4
